US05830902
3-Hydroxymethyl-10-methylphenothiazine
With ice-cooling, sodium borohydride (4.16 g, 110 mmol) was added to a mixture of 3-formyl-10-methylphenothiazine (24.6 g, 102 mmol), THF (100 ml) and ethanol (100 ml), the mixture was stirred for 10 minutes and then at room temperature for 20 minutes. The solvent was evaporated under a reduced pressure, water and 2N hydrochloric acid were added to the residue in that order, and then the reaction product was extracted with ethyl acetate. The extract was washed with a saturated sodium bicarbonate aqueous solution and saturated sodium chloride aqueous solution in that order, dried over anhydrous magnesium sulfate, and then concentrated under a reduced pressure. By recrystallizing the resulting residue from ethyl acetate-hexane, the title compound (18.9 g, 77.7 mmol, 76%) was obtained as yellow crystals.

reactant | sodium borohydride | 110 mmol, 4.16 g | [BH4-].[Na+]
reactant | 3-formyl-10-methylphenothiazine | 102 mmol, 24.6 g | C(=O)C=1C=CC=2N(C3=CC=CC=C3SC2C1)C | C14H11NOS
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Hydroxymethyl-10-methylphenothiazine | 77.7 mmol, 18.9 g, 76% | OCC=1C=CC=2N(C3=CC=CC=C3SC2C1)C | C14H13NOS
